US07884207B2
To a solution of 4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}tetrahydro-2H-pyran-4-ol (3.0 g, 8.79 mmol) in chloroform (60 mL) at rt was added m-chloroperbenzoic acid (m-CPBA, 3.2 g, 10.5 mmol). After 2 h, the solution was transferred to a separatory funnel and washed with 10% Na2CO3 (100 mL). The aqueous layer was back-extracted with chloroform. The organic layers were combined, dried over MgSO4, filtered, and concentrated under reduced pressure to yield a light orange solid. To the solid was added dichloromethane (30 mL). Trichloroacetyl isocyanate (1.05 mL, 8.79 mL) was added dropwise. After 1 h, additional trichloroacetyl isocyanate (0.3 equivalent) was added. After 1 h, the volatiles were removed under reduced pressure and the residue was dissolved in methanol (30 mL). A solution of sodium methoxide in methanol (25%, 5.0 mL) was added and the solution stirred overnight at rt and concentrated under reduced pressure. The residue was partitioned between dichloromethane (100 mL) and water (100 mL). The aqueous layer was extracted with dichlormethane (2×100 mL). The organic layers were combined, dried over MgSO4, filtered, and concentrated under reduced pressure. The crude product was purified by flash chromatography (silica gel, eluted with 10% methanol/dichloromethane) to afford a clear oil that was triturated with isopropanol (50 mL) to afford white crystals. The crystals were dissolved in methanol, concentrated under reduced pressure, and dried in a vacuum oven at 80° C. to provide 4-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}tetrahydro-2H-pyran-4-ol (1.27 g, 41%) as a white frothy solid, mp 212-214° C. 1H NMR (300 MHz, DMSO-d6) δ 8.33 (dd, J=8.3, 1.1 Hz, 1H), 7.60 (dd, J=8.3, 1.2 Hz, 1H), 7.40 (ddd, J=8.3, 7.0, 1.4 Hz, 1H), 7.22 (ddd, J=8.3, 7.0, 1.4 Hz, 1H), 6.37 (br s, 2H), 4.90 (br s, 2H), 4.88 (s, 1H), 4.70 (br s, 2H), 3.62-3.47 (m, 6H), 1.87-1.74 (m, 2H), 1.28 (m, 2H), 1.14 (t, J=7.0 Hz, 3H); MS (APCI) m/z 357 (M+H)+; Anal. Calcd for C19H24N4O3: C, 64.03; H, 6.79; N, 15.72. Found: C, 63.75; H, 7.06; N, 15.71.

reactant | 4-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}tetrahydro-2H-pyran-4-ol | 8.79 mmol, 3.0 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCOCC1)O | C19H23N3O3
reactant | m-chloroperbenzoic acid | 10.5 mmol, 3.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | dichloromethane | 30 mL | ClCCl | CH2Cl2
reactant | Trichloroacetyl isocyanate | 1.05 mL | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | trichloroacetyl isocyanate | 0.3 equivalent | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 4-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}tetrahydro-2H-pyran-4-ol | 1.27 g, 41% | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCOCC2)O)COCC | C19H24N4O3
